US05571842
b) 2-Bromo-5-methylbenzenesulfonyl chloride
50 g of 2-bromo-5-methylbenzenesulfonic acid and 41.5 g of PCl5 are carefully heated in 500 ml of toluene until the evolution of gas commences. After the reaction has subsided the mixture is boiled under reflux until the evolution of gas has ended (2 h). The mixture is cooled and the toluene and POCl3 are removed in vacuo. The residue is carefully poured onto about 1 l of ice, the mixture is subsequently stirred for 1 h and then the product is filtered off with suction. Drying at 60° C. in vacuo gives 36 g of a colorless solid.

reactant | 2-bromo-5-methylbenzenesulfonic acid | 50 g | BrC1=C(C=C(C=C1)C)S(=O)(=O)O | C7H7BrO3S
reactant | PCl5 | 41.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Bromo-5-methylbenzenesulfonyl chloride | 36 g | BrC1=C(C=C(C=C1)C)S(=O)(=O)Cl | C7H6BrClO2S
